Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L ___ pain and fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
___
Time: ___
_
________________________________________________________________

PCP: ___ (___) 

. 

CC: ___ pain, emesis

_
________________________________________________________________

 

HPI: 
___ , presented with complaints of abdominal pain, nausea and 
fever since ___, patient describes her pain as generalized 
abdominal pain, worse on the left ___, ___ , associated with 
nausea and vomiting. no reliving factors. She also noticed fever 
and chills and stated that the fever exacerbated her headaches, 
patient has hx of Migraine for which she takes oral Excedrin 
which helped with her headaches. She denies any photosensitivity 
or neck stiffness . Rare dysuria which started today but she has 
been feeling poorly with subjective fevers for two days. She was 
making herself drink a lot of water so she was having increased 
urinary frequency. No emesis today but even drinking water made 
her nauseous. She is afraid to eat. 

Per ED dashboard she had no hx of kidney stones in the past, she 
also denies any hx of PID or STD. 
.
Patient was observed in our ED on ___, she was discharged 
yesterday. she had total of 3 oral tabs of cipro at home before 
coming in today. she stated that the pills made her feel worse. 
Last ___ ___. She had stopped passing gas and passed gas 
again this morning.  Pelvic exam in the ED negative for CMT

In ER: (Triage Vitals: 10 |103.1 | 124 | 125/83 | 20 |100% RA  ) 

Meds Given: morphine/Zofran/ibuprofen/apap/ceftriaxone/morphine
4L NS given: Radiology Studies: Renal US
consults called: None
.
PAIN SCALE: ___ pain currently

REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI and 5 lb weight gain
HEENT:  [X] All normal- no photosensitivity
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  As per HPI
GU:  [+] dyria and L CVAT
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above

 
Past Medical History:
UTI this summer - received abx from her PCP in ___
___ two vertebrae after falling two stories and she was 
observed in the ED and discharged ___
 
Social History:
___
Family History:
Parents are still alive and healthy. MGM died of lung cancer but 
also smoked. MGF died of cirrhosis and lung cancer - + tobacco, 
M uncle died of cirrhosis. 
 
Physical Exam:
ADMISSION EXAM:
Vitals:  99.3 PO 111 / 57 104 16 98 RA 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rrr soft flow murmur at ___ 
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  
GU: L CVAT - severe 
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD:  No cervical LAD
.
DISCHARGE EXAM:
Vitals: 98.0 108/68 80 18 98% RA  
General: NAD, comfortable appearing  
HEENT: NCAT anicteric MMM  
CV: s1s2 rrr no m/g/r appreciated
RESP: clear bilaterally, no w/c/r  
GI: +bs, soft, tender on L side, no guarding, or rebound
tenderness 
back:  
GU: significant L CVAT 
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD: No cervical LAD  

 
Pertinent Results:
Admission labs:
___ 01:00PM URINE  HOURS-RANDOM
___ 01:00PM URINE  UCG-NEGATIVE
___ 01:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:00PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-4* PH-6.5 LEUK-NEG
___ 01:00PM URINE  RBC-3* WBC-16* BACTERIA-NONE YEAST-NONE 
EPI-1
___ 01:00PM URINE  MUCOUS-FEW
___ 12:00PM   ___ COMMENTS-GREEN TOP
___ 12:00PM   LACTATE-1.5
___ 11:50AM   GLUCOSE-106* UREA N-6 CREAT-0.6 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-102 TOTAL CO2-22 ANION GAP-18
___ 11:50AM   ALT(SGPT)-10 AST(SGOT)-15 ALK PHOS-95 TOT 
BILI-0.5
___ 11:50AM   LIPASE-13
___ 11:50AM   ALBUMIN-3.6 MAGNESIUM-1.8
___ 11:50AM   WBC-16.4* RBC-3.81* HGB-11.0* HCT-33.8* 
MCV-89 MCH-28.9 MCHC-32.5 RDW-11.8 RDWSD-38.2
___ 11:50AM   NEUTS-86* BANDS-3 LYMPHS-3* MONOS-6 EOS-0 
BASOS-0 ___ METAS-1* MYELOS-1* AbsNeut-14.60* AbsLymp-0.49* 
AbsMono-0.98* AbsEos-0.00* AbsBaso-0.00*
___ 11:50AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 11:50AM   PLT SMR-NORMAL PLT COUNT-162
=========================================
Reports:
Renal U/S
IMPRESSION:  
  
1. No hydronephrosis or nephrolithiasis. 
  
2. Mild splenomegaly. 
.  
.
MICRO:

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
.
Blood cultures pending
.
No new discharge labs

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with several days of dysuria, and 
more recently L ___ pain. Was seen in ED over the weekend for 
dysuria, and d/c'ed with 3 day course of ciprofloxacin. Pain 
continued as outpatient, with nausea/vomiting. Patient returned 
and found to have pyelonephritis, with US neg for hydro. UA on 
second admission negative for bacteria. UCx from initial 
presentation grew E. Coli ___ to cipro patient initially 
received IV Ceft on day of admission, transitioned to PO cipro 
for 7 day course from this admission.

TRANSITIONAL ISSUES:
# STARTED PO Cipro for 7 day course (ending ___
# STARTED PO ibuprofen and tylenol for pain for ___ days PRN

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ciprofloxacin HCl 500 mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO ONCE Duration: 1 Dose 
RX *acetaminophen [Acetaminophen Pain Relief] 500 mg ___ 
tablet(s) by mouth every 8 hours Disp #*18 Tablet Refills:*0 
2.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen [Advil] 200 mg ___ tablet(s) by mouth every 8 
hours Disp #*24 Tablet Refills:*0 
3.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*12 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
# Pyelonephritis
# Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking part in your care. You were admitted to 
the hospital for ongoing pain in your left ___, nausea, 
vomiting, and ongoing headaches. You were found to have a 
urinary tract infection this past weekend in the emergency 
department. You received an ultrasound of your kidney, which did 
not show any complications from the infection. For your urinary 
tract infection and kidney infection, you were treated with 
antibiotics, fluids, pain medications, and medications for 
nausea. Your pain improved, and you were able to eat and drink 
without pain.

It will be important for you to take the full course of 
antibiotics as described below. Should you notice new or 
worsening symptoms, please seek medical care.

We wish you the best!
- Your ___ care team
 
Followup Instructions:
___